US07622494B2
N-Benzyl-2,3,4,9-tetrahydrocarbazole-1-amine hydrochloride salt
To a solution of 2,3,4,9-tetrahydro-1H-carbazol-1-one (0.1 g, 0.52 mmol) in dichloroethane (5 mL) was added sodium triacetoxyborohydride (0.17 g, 0.80 mmol), acetic acid (0.046 mL, 0.80 mmol) and benzyl amine (0.087 mL, 0.80 mmol). The mixture was stirred at room temperature for 16 hours. The reaction was quenched by adding saturated NaHCO3 (5 mL) and EtOAc (5 mL) and stirred for 30 minutes. The layers were separated, the aqueous layer extracted with EtOAc (2×5 mL), the organic layers combined, dried over Na2SO4, filtered and evaporated. Purification was accomplished by silica gel chromatography with hexanes/ethyl acetate as the eluant to afford yellowish oil. The compound was dissolved in diethyl ether and a solution of HCl in diethyl ethyl ether was added to yield a white precipitate was upon evaporation. Recrystallization from methanol/diethyl ether afforded a white solid (42 mg, 35%). 1H-NMR (DMSO-ds): δ 11.2 (s, 1H), 9.70 (s, 1H), 9.58 (s, 1H), 7.64 (d, 2H), 7.43 (m, 5H), 7.14 (t, 1H), 7.02 (t, 1H), 4.67 (s, 1H), 4.29 (s, 2H), 2.71 (m, 2H), 2.22 (m, 2H), 2.08 (m, 1H), 1.82(m, 1H); 13C-NMR (CDCl3): δ 140.7, 136.2, 135.7, 128.5, 128.1, 127.5, 127.1, 121.5, 119.0, 118.3, 111.2, 110.8, 51.9, 50.4, 30.5, 21.8, 21.0; MS m/z 277 (M).

reactant | 2,3,4,9-tetrahydro-1H-carbazol-1-one | 0.52 mmol, 0.1 g | C1(CCCC=2C3=CC=CC=C3NC12)=O | C12H11NO
reactant | sodium triacetoxyborohydride | 0.80 mmol, 0.17 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.80 mmol, 0.046 mL | C(C)(=O)O | C2H4O2
reactant | benzyl amine | 0.80 mmol, 0.087 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HCl | Cl | ClH
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-Benzyl-2,3,4,9-tetrahydrocarbazole-1-amine hydrochloride salt | 42 mg, 35% | Cl.C(C1=CC=CC=C1)NC1CCCC=2C3=CC=CC=C3NC12 | InChI=1S/C19H20N2.ClH/c1-2-7-14(8-3-1)13-20-18-12-6-10-16-15-9-4-5-11-17(15)21-19(16)18;/h1-5,7-9,11,18,20-21H,6,10,12-13H2;1H
